US06350771B1
90% Tertiary-butyl nitrite (27.9 ml) was slowly added to a stirred solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-ethylthio-1H-pyrazole-3-carbonitrile (49.8 g) in bromoform (600 ml) at 0-5° C. The mixture was stirred for three hours whilst warming to 20° C. evaporated and re-evaporated after addition of hexane/ethyl acetate (1:1) to give 5-bromo-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-ethylthio-1H-pyrazole-3-carbonitrile (32.65 g), showing 93.3 area % purity by HPLC and with a retention time of 11.26 minutes on a 25.0 cm by 4.6 mm SUPELCOSIL LC-18 column, eluting with CH3CN/H2O (3: 1) solvent at 1 ml/minute. By proceeding in a similar manner the following compound was prepared:

reactant | Tertiary-butyl nitrite | 27.9 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-ethylthio-1H-pyrazole-3-carbonitrile | 49.8 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SCC | C13H9Cl2F3N4S
reactant | bromoform | 600 ml | C(Br)(Br)Br | CHBr3
product | 5-bromo-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-ethylthio-1H-pyrazole-3-carbonitrile | 32.65 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SCC | C13H7BrCl2F3N3S
